US07662974B2
Preparation of ethyl (1-hydroxy-2,5-dimethyl-4-oxocyclohexa-2,5-dien-1-yl)acetate
Under nitrogen atmosphere, 6 mL of THF was added to 1.22 g (2 mmol, 0.6 equivalent) of (BrZnCH2COOEt.THF)2. Under argon atmosphere, a solution of 0.45 g (3.33 mmol) of 2,5-dimethyl-p-benzoquinone in 3 mL of THF was added 15 dropwise while stirring at 0˜5° C. The mixture was stirred at 20˜25° C. for 1 hour. 5 mL of 1N hydrochloric acid was added dropwise at 20° C. or lower, followed by dilution with 25 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 5 mL (×2) of 1N hydrochloric acid, 5 mL of water, 5 mL (×2) of an aqueous saturated sodium bicarbonate solution, and 5 mL (×2) of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. After concentration under reduced pressure, purification with silica gel column (developing solvent; ethyl acetate/n-hexane=1/3, 1/2) afforded 0.65 g of the desired product (yield 87%).

reactant | BrZnCH2COOEt | Br[Zn]CC(=O)OCC
reactant | 2,5-dimethyl-p-benzoquinone | 3.33 mmol, 0.45 g | CC=1C(C=C(C(C1)=O)C)=O | C8H8O2
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | ethyl (1-hydroxy-2,5-dimethyl-4-oxocyclohexa-2,5-dien-1-yl)acetate | 0.65 g, yield 87% | OC1(C(=CC(C(=C1)C)=O)C)CC(=O)OCC | C12H16O4
